US04197313
9-(3-Dimethylaminopropyl)-9-cyanofluorene
To a stirred solution of 2.6 g. of sodium amide in 200 ml. of tetrahydrofuran was added dropwise over thirty minutes a solution of 12.7 g. of 9-cyanofluorene in 300 ml. of tetrahydrofuran. The reaction mixture was next heated to reflux for three hours, and then cooled to room temperature. While the reaction mixture was being stirred at room temperature, a solution of 14.2 g. of 3-dimethylaminopropyl chloride in 500 ml. of tetrahydrofuran was added dropwise over one hour. Following complete addition, the reaction mixture was again heated to reflux and stirred for sixteen hours. After cooling the mixture to room temperature, it was added to 500 ml. of water. The product was extracted into diethyl ether, and the ethereal extracts were combined, washed with water and dried. Removal of the solvent by evaporation under reduced pressure afforded, after distillation, 2.3 g. of 9-(3-dimethylaminopropyl)-9-cyanofluorene. B.P. 195°-201° C. at 0.1 torr.

reactant | sodium amide | [NH2-].[Na+]
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | 9-cyanofluorene | C(#N)C1C2=CC=CC=C2C=2C=CC=CC12 | C14H9N
reactant | 3-dimethylaminopropyl chloride | CN(CCCCl)C | C5H12ClN
solvent | water | O | H2O
product | 9-(3-Dimethylaminopropyl)-9-cyanofluorene | CN(CCCC1(C2=CC=CC=C2C=2C=CC=CC12)C#N)C | C19H20N2
